US04945176
PREPARATION OF 9-(2-CARBOXYPHENYL)-3,6-BIS (TRIFLUOROETHYLAMINO)2,7-DIMETHYL-XANTHYLIUM HYDROXIDE, INNER SALT
3-Trifluoroethylamino-4-methylphenol (13.9 g; 0.068 mole) and phthalic anhydride (15.05 g; 0.102 mole - 1.5 mole equivalents) were heated in a 500 ml round-bottomed, single-neck flask equipped with a short, water-cooled reflux condenser in a 160° oil bath for three hours. A temperature in the range of 150°-180° C. is acceptable. At the start of the reaction the melt was swirled from time to time to facilitate mixing. A further batch of 3-trifluoroethylamino-4-methylphenol (14.0 g; 0.068 mole) was warmed with 85% phosphoric acid (25 ml plus 10 ml) and was transferred to the cooled reaction mixture. The flask was heated for four hours at an oil bath temperature of 170 ; again with occasional swirling. Methanol (170 ml; 25 ml per 0.01 M) was added to the cooled but still warm reactants and the mixture was refluxed for twenty minutes. Crystals appeared almost immediately and the liquid was stored in a 4° refrigerator overnight. Filtration, washing with cold methanol, and drying gave 25.1 g of red-orange crystals. A second crop 0.9 g (total yield 73%) came from the filtrate kept several days at 4° C.

reactant | 3-Trifluoroethylamino-4-methylphenol | 0.068 mole, 13.9 g | FC(CNC=1C=C(C=CC1C)O)(F)F | C9H10F3NO
reactant | phthalic anhydride | 0.102 mole - 1.5 mole, 15.05 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | water | O | H2O
reactant | 3-trifluoroethylamino-4-methylphenol | 0.068 mole, 14.0 g | FC(CNC=1C=C(C=CC1C)O)(F)F | C9H10F3NO
reactant | phosphoric acid | 25 ml | P(O)(O)(O)=O | H3O4P
solvent | Methanol | 0.01 M, 170 ml | CO | CH4O
product | 9-(2-CARBOXYPHENYL)-3,6-BIS (TRIFLUOROETHYLAMINO)2,7-DIMETHYL-XANTHYLIUM HYDROXIDE | 25.1 g, yield 73% | [OH-].C(=O)(O)C1=C(C=CC=C1)C=1C2=CC(=C(C=C2[O+]=C2C=C(C(=CC12)C)NCC(F)(F)F)NCC(F)(F)F)C | InChI=1S/C26H20F6N2O3.H2O/c1-13-7-17-21(9-19(13)33-11-25(27,28)29)37-22-10-20(34-12-26(30,31)32)14(2)8-18(22)23(17)15-5-3-4-6-16(15)24(35)36;/h3-10,33-34H,11-12H2,1-2H3;1H2
